US08207164B2
f) N-[1-(3-Bromo-phenyl)-2,2-difluoro-1-hydroxymethyl-ethyl]-2-chloro-acetamide
2-Amino-2-(3-bromo-phenyl)-3,3-difluoro-propan-1-ol hydrochloride (6.5 g, 24.43 mmol) was put between 60 ml aqueous 2 M Na2CO3 solution and 60 ml dichloromethane and cooled to 0° C. under strong stirring. Then chloroacetylchloride (2.94 ml, 36.6 mmol), diluted in 8 ml dichloromethane, was added dropwise to the biphasic solution. After the complete addition, the reaction was stirred for 30 minutes at r.t. After completion 10 ml MeOH were added and stirring was continued for 10 minutes. Then TBME and water were added. The phases were separated, and the aqueous phase was extracted with TBME. The organic phases were washed with water and brine, dried over Na2SO4 and concentrated under reduced pressure to yield the title compound as off-white solid. 1H-NMR (360 MHz, DMSO-d6): 8.72 (s, 1H), 7.53 (m, 2H), 7.35 (m, 2H), 6.48 (t, 1H, CHF2), 5.39 (t, 1H), 4.18 (m, 2H), 3.10 (s, 2H); MS: 342 [(M+H)+].

reactant | 2-Amino-2-(3-bromo-phenyl)-3,3-difluoro-propan-1-ol hydrochloride | 24.43 mmol, 6.5 g | Cl.NC(CO)(C(F)F)C1=CC(=CC=C1)Br
reactant | Na2CO3 | 2 M | C(=O)([O-])[O-].[Na+].[Na+]
reactant | chloroacetylchloride | 36.6 mmol, 2.94 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | MeOH | 10 ml | CO | CH4O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | TBME | CC(C)(C)OC | C5H12O
product | N-[1-(3-Bromo-phenyl)-2,2-difluoro-1-hydroxymethyl-ethyl]-2-chloro-acetamide | BrC=1C=C(C=CC1)C(C(F)F)(CO)NC(CCl)=O | C11H11BrClF2NO2
